US06159901
Production of 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,3,3,3-pentafluoropropylidene] hydrazide (compound No. I-40)
4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.30 g, 0.00088 mol) was mixed with 2,2,3,3,3-pentafluoropropionaldehyde monohydrate (0.29 g, 0.00088×2.0 mol) and benzene, and further with a small amount of concentrated hydrochloric acid. The obtained mixture was refluxed and dehydrated for about 8 hours using a water separator. The obtained reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water, and the organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated. The obtained concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.00088 mol, 0.30 g | CN(C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN)C | C15H15F3N4O2
reactant | 2,2,3,3,3-pentafluoropropionaldehyde monohydrate | 2.0 mol, 0.29 g | O.FC(C=O)(C(F)(F)F)F
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2,2,3,3,3-pentafluoropropylidene] hydrazide | FC(C=NNC(C1=NC(=CC(=C1)N(C)C)OC1=CC(=CC=C1)C(F)(F)F)=O)(C(F)(F)F)F | C18H14F8N4O2
